US08114868B2
A mixture of 5-bromo-2-hydroxypyridine (0.8300 g, 4.77 mmol, 1.0 equiv), Cu(OAc)2 (0.902 g, 4.96 mmol, 1.04 equiv), bipyridine (0.785 g, 5.03 mmol, 1.05 equiv), cyclopropylboronic acid (0.846 g, 9.85 mmol, 2.06 equiv) and Na2CO3 (1.110 g, 10.47 mmol, 2.20 equiv) in dichloroethane (30 mL) was stirred at 70° C. for 22 h under air. The reaction mixture was quenched with satd aq NH4Cl, diluted with CH2Cl2, dried over Na2SO4. After the solvent was removed under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/EtOAc to afford 0.585 g (58%) of 5-bromo-1-cyclopropylpyridin-2(1H)-one. LC-MS Method 1 tR=1.05 min, m/z 214, 216 (MH+); 1H NMR (400 MHz, CDCl3) δ 7.41 (d, J=2.7 Hz, 1H), 7.31 (dd, J=9.7, 2.9 Hz, 1H), 6.47 (d, J=9.9 Hz, 1H), 3.33-3.27 (m, 1H), 1.17-1.12 (m, 2H), 0.89-0.84 (m, 2H); 13C NMR (100 MHz, CDCl3) δ 162.58, 142.29, 137.00, 121.77, 97.92, 32.83, 6.93.

reactant | 5-bromo-2-hydroxypyridine | 4.77 mmol, 0.8300 g, 1.0 equiv | BrC=1C=CC(=NC1)O | C5H4BrNO
reactant | bipyridine | 5.03 mmol, 0.785 g, 1.05 equiv | C=1C=CN=C(C1)C=2C=CC=CN2 | C10H8N2
reactant | cyclopropylboronic acid | 9.85 mmol, 0.846 g, 2.06 equiv | C1(CC1)B(O)O | C3H7BO2
reactant | Na2CO3 | 10.47 mmol, 1.110 g, 2.20 equiv | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
catalyst | Cu(OAc)2 | 4.96 mmol, 0.902 g, 1.04 equiv | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 5-bromo-1-cyclopropylpyridin-2(1H)-one | 0.585 g, 58% | BrC=1C=CC(N(C1)C1CC1)=O | C8H8BrNO
